US08859774B2
2-(Trimethylsilyl)thiazole (285 μl, 1.784 mmol) in dry ether (2 mL) was added to butyllithium (2.5 M in Hexanes) (731 μl, 1.828 mmol) in dry ether (1 mL) at −78° C. The reaction mixture was stirred at −78° C. for 30 minutes. A solution of (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate (250 mg, 0.585 mmol) in dry ether (6 mL) was added dropwise and the reaction mixture was stirred for 0.5 hour at −78° C. Water (10 mL) was added and the reaction mixture was stirred at room temperature for 10 minutes. The aqueous layer was extracted with ethyl acetate (3×15 mL). The combined organic extracts were washed with brine (20 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give an orange solid. The crude product was purified by chromatography on silica gel (gradient: 0-40% ethyl acetate in isohexane) to afford (R)-tert-butyl 1-(4-fluorophenyl)-4a-(2-(trimethylsilyl)thiazole-5-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (88 mg) as a yellow solid. LCMS (Method F, ES-API): RT 2.38 min, m+H=481.2.

reactant | 2-(Trimethylsilyl)thiazole | 1.784 mmol, 285 μl | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | butyllithium | 1.828 mmol, 2.5 M, 731 μl | C(CCC)[Li]
reactant | (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate | 0.585 mmol, 250 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)C(=O)OC(C)(C)C | C23H26FN3O4
reactant | Water | 10 mL | O | H2O
solvent | ether | 2 mL | CCOCC | C4H10O
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | ether | 6 mL | CCOCC | C4H10O
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(2-(trimethylsilyl)thiazole-5-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 88 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C2=CN=C(S2)[Si](C)(C)C)C(=O)OC(C)(C)C | C28H33FN4O3SSi
